US07906504B2
To a stirred solution of 2-bromo-5-methoxybenzoic acid methyl ester (17.7 g, 72.2 mmol) and 3-chlorovinylbenzene (9.17 mL, 72.2 mmol) in anhydrous acetonitrile (180 mL) was added triethylamine (20.10 mL, 144 mmol) and tris(o-tolyl)phosphine (2.85 g, 9.38 mmol). The reaction mixture was sparged with argon for 5 min, palladium(II) acetate (1.62 g, 7.22 mmol) was added and the mixture heated at 85° C. under an argon atmosphere for 21 h. The product mixture was filtered through celite, concentrated in vacuo, the residue dissolved in ethyl acetate (400 mL) and washed with 1 N HCl (aq.) (200 mL) and brine (200 mL). The combined aqueous layers were back-extracted with ethyl acetate (200 mL). The ethyl acetate extracts were combined, dried (MgSO4) and concentrated under reduced pressure to give the crude 2-[(E)-2-(3-chlorophenyl)vinyl]-5-methoxybenzoic acid methyl ester as a red-brown, viscous oil which was used in the next step without further purification.

reactant | 2-bromo-5-methoxybenzoic acid methyl ester | 72.2 mmol, 17.7 g | COC(C1=C(C=CC(=C1)OC)Br)=O | C9H9BrO3
reactant | 3-chlorovinylbenzene | 72.2 mmol, 9.17 mL | ClC=CC=1C=CC=CC1 | C8H7Cl
reactant | triethylamine | 144 mmol, 20.10 mL | C(C)N(CC)CC | C6H15N
reactant | tris(o-tolyl)phosphine | 9.38 mmol, 2.85 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | acetonitrile | 180 mL | C(C)#N | C2H3N
catalyst | palladium(II) acetate | 7.22 mmol, 1.62 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-[(E)-2-(3-chlorophenyl)vinyl]-5-methoxybenzoic acid methyl ester | COC(C1=C(C=CC(=C1)OC)\C=C\C1=CC(=CC=C1)Cl)=O | C17H15ClO3
